** sch_path: /home/take/Design/tr10_sram/sram/sram_16w2b.sch
.subckt sram_16w2b BL0 VDD WL0 WL8 BL1 VSS WL1 BLB1 WL9 BLB0 WL2 WL10 WL3 WL11 WL4 WL12 WL5 WL13 WL6 WL14 WL15 WL7
*.PININFO VDD:B BL0:B BLB0:B BL1:B BLB1:B WL0:I WL1:I WL2:I WL3:I WL4:I WL5:I WL6:I WL7:I VSS:B WL8:I WL9:I WL10:I WL11:I WL12:I
*+ WL13:I WL14:I WL15:I
x17 BL0 BLB0 WL0 VDD VSS sram6t_tr10
x3 BL1 BLB1 WL0 VDD VSS sram6t_tr10
x1 BL0 BLB0 WL1 VDD VSS sram6t_tr10
x2 BL1 BLB1 WL1 VDD VSS sram6t_tr10
x6 BL0 BLB0 WL2 VDD VSS sram6t_tr10
x7 BL1 BLB1 WL2 VDD VSS sram6t_tr10
x8 BL0 BLB0 WL3 VDD VSS sram6t_tr10
x18 BL1 BLB1 WL3 VDD VSS sram6t_tr10
x9 BL0 BLB0 WL4 VDD VSS sram6t_tr10
x10 BL1 BLB1 WL4 VDD VSS sram6t_tr10
x11 BL0 BLB0 WL5 VDD VSS sram6t_tr10
x12 BL1 BLB1 WL5 VDD VSS sram6t_tr10
x13 BL0 BLB0 WL6 VDD VSS sram6t_tr10
x14 BL1 BLB1 WL6 VDD VSS sram6t_tr10
x15 BL0 BLB0 WL7 VDD VSS sram6t_tr10
x16 BL1 BLB1 WL7 VDD VSS sram6t_tr10
x4 BL0 BLB0 WL8 VDD VSS sram6t_tr10
x5 BL1 BLB1 WL8 VDD VSS sram6t_tr10
x19 BL0 BLB0 WL9 VDD VSS sram6t_tr10
x20 BL1 BLB1 WL9 VDD VSS sram6t_tr10
x21 BL0 BLB0 WL10 VDD VSS sram6t_tr10
x22 BL1 BLB1 WL10 VDD VSS sram6t_tr10
x23 BL0 BLB0 WL11 VDD VSS sram6t_tr10
x24 BL1 BLB1 WL11 VDD VSS sram6t_tr10
x25 BL0 BLB0 WL12 VDD VSS sram6t_tr10
x26 BL1 BLB1 WL12 VDD VSS sram6t_tr10
x27 BL0 BLB0 WL13 VDD VSS sram6t_tr10
x28 BL1 BLB1 WL13 VDD VSS sram6t_tr10
x29 BL0 BLB0 WL14 VDD VSS sram6t_tr10
x30 BL1 BLB1 WL14 VDD VSS sram6t_tr10
x31 BL0 BLB0 WL15 VDD VSS sram6t_tr10
x32 BL1 BLB1 WL15 VDD VSS sram6t_tr10
.ends

* expanding   symbol:  sram6t_tr10.sym # of pins=5
** sym_path: /home/take/Design/tr10_sram/sram/sram6t_tr10.sym
** sch_path: /home/take/Design/tr10_sram/sram/sram6t_tr10.sch
.subckt sram6t_tr10 BL BLB WL VDD VSS
*.PININFO BL:B BLB:B WL:I VDD:B VSS:B
MXM1 net1 net2 VDD VDD PMOS w=3.4u l=1u
MXM2 net2 net1 VDD VDD PMOS w=3.4u l=1u
MXM4 net2 net1 VSS VSS NMOS w=6.8u l=1u
MXM3 net1 net2 VSS VSS NMOS w=6.8u l=1u
MXM5 BL WL net1 VSS NMOS w=5.1u l=1u
MXM6 BLB WL net2 VSS NMOS w=5.1u l=1u
.ends

